US07414134B2
Step (v): Synthesis of (S)-7-((4-fluoropiperidin-1-yl)methyl-3,4-dihydro-2H-chromen-4-ol (11)
A mixture of (S)-1-((4-(tert-butyldimethylsilyloxy)-3,4-dihydro-2H-chromen-7-yl)methyl)-4-fluoropiperidine (4.54 g, 12.5 mmol) and TBAF (7.92 g, 37.49 mmol) in THF (50 mL) was stirred for 16 h at RT. The reaction mixture was taken up in H2O, and extracted with EtOAc (3×). The organic layers were extracted with 10% aqueous HCl. The combined aqueous extracts were neutralized with 2N NaOH, and extracted with CH2Cl2 (3×). The combined organic extracts were dried over MgSO4 and concentrated to give the title compound as a yellow oil. MS (m/z, m+1): 282.4.

reactant | (S)-1-((4-(tert-butyldimethylsilyloxy)-3,4-dihydro-2H-chromen-7-yl)methyl)-4-fluoropiperidine | 12.5 mmol, 4.54 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CCOC2=CC(=CC=C12)CN1CCC(CC1)F | C21H34FNO2Si
reactant | TBAF | 37.49 mmol, 7.92 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | (4-fluoropiperidin-1-yl)methyl-3,4-dihydro-2H-chromen-4-ol | FC1CCN(CC1)CC1OC2=CC=CC=C2C(C1)O | C15H20FNO2
